US05582814
α-Chloro-β-p-n-butylphenylpropionitrile (2 )
One and a half moles (237 mL) of 4-n-butylaniline was dissolved in acetone (1500 mL). The solution was cooled to 10° C. and water (150 mL) and concentrated aqueous HCl (300 mL) were added. Sodium nitrite (69.0 g, 1.73 moles) in water (200 mL) was added dropwise to the cooled solution. The solution was adjusted to pH 4 by addition of solid sodium acetate. Acrylonitrile (148 mL, 2.25 moles) was added, followed by CuCl2 ·2H2O (38.4 g) in 50 mL H2O. The reaction mixture was heated to 40° C. and was stirred at this temperature for 3 h. The aqueous layer was extracted with ether. The combined organics were washed with water and saturated aqueous NaHCO3, were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was fractionally distilled at reduced pressure. The product was collected at 115°-130° C. @2 mm Hg, as 166.3 g (50% yield) of an orange oil.

reactant | 4-n-butylaniline | One and a half moles, 237 mL | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | HCl | 300 mL | Cl | ClH
reactant | Sodium nitrite | 1.73 moles, 69.0 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | Acrylonitrile | 2.25 moles, 148 mL | C(C=C)#N | C3H3N
solvent | acetone | 1500 mL | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | α-Chloro-β-p-n-butylphenylpropionitrile | 166.3 g, 50% yield | ClC(C#N)CC1=CC=C(C=C1)CCCC | C13H16ClN
